US03946009
A mixture of 0.1 mole of 2-amino-3-methoxy-5-bromopyrazine and 0.1 mole of sodium in 160 ml. of anhydrous methanol is refluxed 5-10 hours and poured into water. The product is extracted with ether or chloroform and recrystallized from a suitable solvent such as ethanol to give 2-amino-3,5-dimethoxypyrazine.

reactant | 2-amino-3-methoxy-5-bromopyrazine | 0.1 mole | NC1=NC=C(N=C1OC)Br | C5H6BrN3O
reactant | sodium | 0.1 mole | [Na] | Na
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-amino-3,5-dimethoxypyrazine | NC1=NC=C(N=C1OC)OC | C6H9N3O2
